US04243806
A mixture of 13.9 parts of 1-(diphenylmethyl)piperazine, 8.35 parts of 2-bromo-1-(4-chloro-3-nitrophenyl)ethanone and 40 parts of 2-propanone is stirred for 30 minutes at room temperature. The formed precipitate is filtered off and 210 parts of 2,2'-oxybispropane are added to the filtrate. The whole is treated with activated charcoal. The latter is filtered off and an excess of 2-propanol, previously saturated with gaseous hydrogen chloride, is added to the filtrate. The formed hydrochloride salt is filtered off, stirred in 80 parts of 2-propanol, filtered off again and crystallized from ethanol. The product is filtered off and recrystallized from 2-methoxyethanol, yielding 6.4 parts of 1-(4-chloro-3-nitrophenyl)-2-[4-(diphenylmethyl)-1-piperazinyl]ethanone dihydrochloride; mp. 165° C.

reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | 2-bromo-1-(4-chloro-3-nitrophenyl)ethanone | BrCC(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C8H5BrClNO3
solvent | 2-propanone | CC(C)=O | C3H6O
product | 1-(4-chloro-3-nitrophenyl)-2-[4-(diphenylmethyl)-1-piperazinyl]ethanone dihydrochloride | Cl.Cl.ClC1=C(C=C(C=C1)C(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)[N+](=O)[O-] | InChI=1S/C25H24ClN3O3.2ClH/c26-22-12-11-21(17-23(22)29(31)32)24(30)18-27-13-15-28(16-14-27)25(19-7-3-1-4-8-19)20-9-5-2-6-10-20;;/h1-12,17,25H,13-16,18H2;2*1H
